US07345056B2
Sodium hydroxide (0.5 mL, 3 N solution) was added to a solution 12-(4-chloro-benzenesulfonyl)-4,5,12-triaza-tricyclo[6.3.1.02,6]dodeca-2(6),3-diene-10-carboxylic acid ethyl ester (321 mg, 0.783 mmol) in THF (2 mL). The resulting mixture was stirred at room temperature for 4 h. The reaction mixture was extracted with EtOAc (2×5 mL) and the combined organic phases were dried (Na2SO4), filtered, concentrated and purified by preparative HPLC to give 12-(4-chloro-benzenesulfonyl)-4,5,12-triaza-tricyclo[6.3.1.02,6]dodeca-2(6),3-diene-10-carboxylic acid as a white solid. Retention time (min)=1.316, method [1], MS(ESI) 382.0 (M+H); 1H NMR (300 MHz, CDCl3) δ 7.56 (d, J=8.7 Hz, 2H), 7.30-7.22 (m, 3H), 5.30-5.25 (m, 1H), 4.54-4.45 (m, 1H), 2.80 (dd, J=17.0, J=7.7 Hz, 1H), 2.50 (d, J=17.0 Hz, 1H), 2.42-2.30 (m, 1H), 2.24-1.85 (m, 4H).

reactant | Sodium hydroxide | 3 N, 0.5 mL | [OH-].[Na+]
reactant | 12-(4-chloro-benzenesulfonyl)-4,5,12-triaza-tricyclo[6.3.1.02,6]dodeca-2(6),3-diene-10-carboxylic acid ethyl ester | 0.783 mmol, 321 mg | C(C)OC(=O)C1CC2CC=3NN=CC3C(C1)N2S(=O)(=O)C2=CC=C(C=C2)Cl | C18H20ClN3O4S
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 12-(4-chloro-benzenesulfonyl)-4,5,12-triaza-tricyclo[6.3.1.02,6]dodeca-2(6),3-diene-10-carboxylic acid | ClC1=CC=C(C=C1)S(=O)(=O)N1C2C=3C=NNC3CC1CC(C2)C(=O)O | C16H16ClN3O4S
